US04272437
1. 1-(Trimethylsilyl)-4-tritylthio-2-azetidinone
A solution of 4-tritylthio-2-azetidinone (345 mg, 1 mmole), 1,1,1,3,3,3,-hexamethyldisilazane (80 mg, 0.5 mmole) and chlorotrimethylsilane (55 mg, 0.5 mmole) in dichloromethane (20 ml) was heated under reflux for 18 h. Concentration of the reaction mixture left virtually pure title compound. δ (ppm, CDCl3): 7.32 (15H, m, aromatics), 4.22 (1H, dd, H-4), 2.67 (1H, dd, J=4.1, J=16, H-3), 2.22 (1H, dd, J=2.2,, J=16, H-3), 0.3 (9H, s, CH3).

reactant | 4-tritylthio-2-azetidinone | 1 mmole, 345 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC1CC(N1)=O | C22H19NOS
reactant | 1,1,1,3,3,3,-hexamethyldisilazane | 0.5 mmole, 80 mg | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 0.5 mmole, 55 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(Trimethylsilyl)-4-tritylthio-2-azetidinone | C[Si](N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)(C)C | C25H27NOSSi
